US03956495
A mixture of 5 g of 2-chloro-4-aminoquinazoline, 5 ml of 4-methylpiperazine, and 10 ml of ethanol was heated at reflux overnight. The reaction mixture was diluted with 200 ml of water, made alkaline with 15 ml of 50 percent sodium hydroxide solution, and extracted with 500 ml of ether. The ether extract was washed with water, dried over anhydrous sodium sulfate, and filtered. The ether was removed by evaporation. The residue was dissolved in 500 ml of dry ether and treated with excess hydrogen chloride. Filtration afforded 1.5 g of 2-(4-methylpiperazinyl)-4-aminoquinazoline hydrochloride; m.p. 333°-334° with decomposition. The following analytical data were obtained:

reactant | 2-chloro-4-aminoquinazoline | 5 g | ClC1=NC2=CC=CC=C2C(=N1)N | C8H6ClN3
reactant | 4-methylpiperazine | 5 ml | CN1CCNCC1 | C5H12N2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 2-(4-methylpiperazinyl)-4-aminoquinazoline hydrochloride | 1.5 g | Cl.CN1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)N | InChI=1S/C13H17N5.ClH/c1-17-6-8-18(9-7-17)13-15-11-5-3-2-4-10(11)12(14)16-13;/h2-5H,6-9H2,1H3,(H2,14,15,16);1H
